BYV26					
* comparison measured simulated data for static behavior					.include byv26.mod
					.dc v1 .1 2.5 .05
v1 1 0 dc 1					.probe
d1 1 0 byv26					.temp 0 25 75

* measured data for t=25°C		* measured data for t=0°C		* measured data for t=75°C
g25C 10 0 table {v(1)} =		g0C 20 0 table {v(1)} =		g75C 30 0 table {v(1)} =
+ 0.397 100u		+ 0.461 100u		+ 0.283 100u
+ 0.418 200u		+ 0.467 200u		+ 0.308 200u
+ 0.449 500u		+ 0.495 500u		+ 0.341 500u
+ 0.476 1m		+ 0.522 1m		+ 0.370 1m
+ 0.507 2m		+ 0.553 2m		+ 0.401 2m
+ 0.560 5m		+ 0.607 5m		+ 0.451 5m
+ 0.612 10MA 		+ 0.661 10MA 		+ 0.497 10MA 
+ 0.680 20MA		+ 0.732 20MA		+ 0.554 20MA
+ 0.797 50MA		+ 0.858 50MA		+ 0.652 50MA
+ 0.916 100mA		+ 0.985 100mA		+ 0.751 100mA
+ 1.067 200mA		+ 1.147 200mA		+ 0.878 200mA
+ 1.335 500mA		+ 1.429 500mA		+ 1.108 500mA
+ 1.609 1.0A		+ 1.722 1.0A		+ 1.356 1.0A
+ 1.965 2.0A		+ 2.090 2.0A		+ 1.672 2.0A		
+ 2.624 5.0A		+ 2.775 5.0A		+ 2.276 5.0A		
r_g25C 10 0 1		r_g0C 20 0 1		r_g75C 30 0 1		
 	 	 	 	 	 	 
.end						
*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.model BYV26E d (   
+ Is=437.1n 
+ N=2.406 
+ Rs=.3711 
+ Ikf=13.54m 
+ Xti=1.2 
+ Eg=1.11						
+ Cjo=38.36p 
+ M=.3906 
+ Vj=.3905 
+ Fc=.5 
+ Isr=10.04E-21 
+ Nr=4.506 
+ Bv=1000					
+ Ibv=100u Tt=128.2n)						


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.model BYV26D  d(  
+ Is=437.1n 
+ N=2.406 
+ Rs=.3711 
+ Ikf=13.54m 
+ Xti=1.2 
+ Eg=1.11						
+ Cjo=38.36p 
+ M=.3906 
+ Vj=.3905 
+ Fc=.5 
+ Isr=10.04E-21 
+ Nr=4.506 
+ Bv=800					
+ Ibv=100u Tt=128.2n)						


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL EGF1D D (
+   N=2.30239
+  IS=3.86441E-007
+  RS=0.0294125
+  EG=1.20997
+  XTI=3.07825
+  CJO=7.36864E-011
+  VJ=0.0856305
+   M=0.288789
+  FC=0.5
+  TT=1.23315E-007
+  BV=200
+  IBV=0.01
+  KF=0
+  AF=1 )


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL EGP10D D (
+   N=2.30708
+  IS=4.15009E-007
+  RS=0.0297609
+  EG=1.20561
+  XTI=3.07814
+  CJO=4.87901E-011
+  VJ=0.25
+   M=0.264468
+  FC=0.5
+  TT=1.23315E-007
+  BV=200
+  IBV=0.01
+  KF=0
+  AF=1 )


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL EGP10G D (
+   N=2.84496
+  IS=1.10917E-006
+  RS=0.044804
+  EG=1.44517
+  XTI=3.12357
+  CJO=2.70007E-011
+  VJ=0.588783
+   M=0.246194
+  FC=0.5
+  TT=1.23315E-007
+  BV=400
+  IBV=0.02
+  KF=0
+  AF=1 )


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL EGP50D D (
+   N=1.74351
+  IS=5.95174E-008
+  RS=0.0104058
+  EG=1.15143
+  XTI=3.06295
+  CJO=2.29062E-010
+  VJ=0.271102
+   M=0.303883
+  FC=0.5
+  TT=1.23315E-007
+  BV=200
+  IBV=0.001
+  KF=0
+  AF=1 )


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL EGP50G D (
+   N=2.9566
+  IS=4.19093E-006
+  RS=0.0114706
+  EG=1.52586
+  XTI=3.14952
+  CJO=1.58733E-010
+  VJ=1.44534
+   M=0.454334
+  FC=0.5
+  TT=1.23315E-007
+  BV=400
+  IBV=0.1
+  KF=0
+  AF=1 )

*$
* created by Andreas Bursian, THOMATRONIK, 83022 Rosenheim
* Tel.: -8031-2175-13 ***** Fax.: -8031/2157-30
* date: 31.07.94 18:27
* Model was made for the PSpice Simulator
.MODEL ES1D D (
+   N=2.98145
+  IS=2.0135E-005
+  RS=0.0190575
+  EG=1.11
+  XTI=3
+  CJO=9.05163E-012
+  VJ=0.0804142
+   M=0.064307
+  FC=0.5
+  TT=3.69946E-008
+  BV=200
+  IBV=0.2
+  KF=0
+  AF=1 )


*$
* created by Andreas Bursian, THOMATRONIK, 83022 Rosenheim
* Tel.: -8031-2175-13 ***** Fax.: -8031/2157-30
* date: 31.07.94 18:27
* Model was made for the PSpice Simulator
.MODEL ES2B D (
 + IS=0.0000005588
 + N=2.03
 + RS=0.005974
 + IKF=5.137
 + XTI=3
 + EG=1.11
 + CJO=0.00000000002317
 + M=0.05708
 + VJ=0.3905
 + FC=0.5
 + ISR=0.0000003548
 + NR=1.927
 +  BV=100
 + IBV=0.000001
 + TT=0.00000002718)

*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* March 2001
*   SPICE3
* Forward direction: node 1 -> node 5
.subckt ES2G 1 5
d1 1 2 dmod1
.model dmod1 d is = 1.00318E-015 n = 1.18788
+ eg = 1.2313 xti = 3.49979
+ cjo = 1.72169E-011 vj = 2.37492 m = 0.25 fc = 0.5
g1 1 2 100 0 0.000136778
rs 2 3 0.0106098
e2 3 4 value = {25.2 * i(vs2) / ( abs ( v(51) * 12.6 / v(30) ) + 1 )}
vs2 4 5 0
h2 50 0 vs1 3.74166
rtf1 50 51 10000
ctf 51 0 1.44E-010
rtf2 51 0 1E+007
e1 20 0 1 2 1
vs4 20 21 0
d2 21 0 dmod2
.model dmod2 d is = 1.1198E-005 n = 2.37576
+ eg = 1.2313 xti = 3.49948
i1 0 30 1e-3
r1 30 0 rmod 25.86417
.model rmod res tc1=3.331667e-003 tc2=0 tnom=27
h1 40 0 vs4 7311.1
rt1 40 100 27355.6
rt2 100 41 1953.97
l1 41 42 0.000136778
vs1 42 0 0
dbv1 1 200 bvmod
dbv2 5 200 bvmod
.model bvmod d is = 1E-009 n = 2 rs = 0.01 bv = 440 ibv = 0.2
rl 5 1 rlmod 3.59189E+007
.model rlmod res tc1 = -0.0075 tc2 = 0 tnom = 25
.ends
*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL ES3D D (
+   N=2.08026
+  IS=1.37237E-006
+  RS=0.0239639
+  EG=1.11
+  XTI=3
+  CJO=9.67929E-011
+  VJ=0.25
+   M=0.284092
+  FC=0.5
+  TT=4.93261E-008
+  BV=200
+  IBV=0.02
+  KF=0
+  AF=1 )


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL ES3G D (
+   N=2.69389
+  IS=1.25971E-005
+  RS=0.00412252
+  EG=1.11
+  XTI=3
+  CJO=4.1276E-011
+  VJ=0.558001
+   M=0.164583
+  FC=0.5
+  TT=8.63206E-008
+  BV=400
+  IBV=0.2
+  KF=0
+  AF=1 )

*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 14, 99
* MODEL FORMAT: PSpice
.MODEL FE1D d
+IS=3.08024e-07 RS=0.049708 N=2 EG=0.6
+XTI=0.5 BV=250 IBV=1e-06 CJO=8.30642e-11
+VJ=1.48275 M=0.520618 FC=0.5 TT=5.1785e-08
+KF=0 AF=1


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
* Diode 1: nodes 1 and 2
* Diode 2: nodes 3 and 2
.SUBCKT FEP16DT 1 2 3
D1 1 2 LEGD
D2 3 2 LEGD
.MODEL LEGD D (
+   N=2.19208
+  IS=4.77901E-006
+  RS=0.00507912
+  EG=1.05256
+  XTI=3.06339
+  CJO=1.89436E-010
+  VJ=0.595461
+   M=0.416973
+  FC=0.5
+  TT=8.63206E-008
+  BV=200
+  IBV=0.05
+  KF=0
+  AF=1 )
.ENDS
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* November 2000
*   SPICE3
.model UF4002 d is = 8.03314E-007 n = 2.30554 rs = 0.0375715
+ eg = 1.11 xti = 3 tnom = 25
+ cjo = 2.92237E-011 vj = 0.858244 m = 0.338004 fc = 0.5
+ tt = 1.23315E-007 bv = 110 ibv = 0.01 af = 1 kf = 0


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL UF4007 D (
+   N=3.97671
+  IS=3.28772E-006
+  RS=0.149734
+  EG=1.11
+  XTI=3
+  CJO=2.92655E-011
+  VJ=0.851862
+   M=0.334552
+  FC=0.5
+  TT=1.84973E-007
+  BV=1000
+  IBV=0.2
+  KF=0
+  AF=1 )

*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* February 2001
*   SPICE3
.model UF5406 d is = 1.15563E-005 n = 3.45 rs = 0.0887337
+ eg = 1.11 xti = 3
+ cjo = 9.14327E-011 vj = 0.298558 m = 0.347605 fc = 0.5
+ tt = 1.57227E-007 bv = 660 ibv = 0.3 af = 1 kf = 0


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL UG06D D (
+   N=2.87183
+  IS=4.80626E-006
+  RS=0.00650087
+  EG=1.71605
+  XTI=3.14007
+  CJO=1.26572E-011
+  VJ=0.2
+   M=0.0698141
+  FC=0.5
+  TT=3.69946E-008
+  BV=200
+  IBV=0.1
+  KF=0
+  AF=1 )

*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 21, 99
* MODEL FORMAT: PSpice
.MODEL UG10DCT d
+IS=8.13876e-08 RS=0.0244057 N=1.72178 EG=1.21207
+XTI=1.2 BV=240 IBV=0.0001 CJO=1.60575e-11
+VJ=2 M=0.1 FC=0.5 TT=3.32951e-08
+KF=0 AF=1


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL UG1D D (
+   N=2.72192
+  IS=1.8496E-006
+  RS=0.00447134
+  EG=1.62036
+  XTI=3.12371
+  CJO=1.12328E-011
+  VJ=0.5
+   M=0.176182
+  FC=0.5
+  TT=3.69946E-008
+  BV=200
+  IBV=0.1
+  KF=0
+  AF=1 )


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

* Diode 1: nodes 1 and 2
* Diode 2: nodes 3 and 2
.SUBCKT UG30DPT 1 2 3
D1 1 2 LEGD
D2 3 2 LEGD
.MODEL LEGD D (
+   N=2.66765
+  IS=2.27318E-005
+  RS=0.00231942
+  EG=1.11
+  XTI=3
+  CJO=7.82605E-011
+  VJ=5.63531
+   M=0.0414631
+  FC=0.5
+  TT=4.93261E-008
+  BV=200
+  IBV=0.2
+  KF=0
+  AF=1 )
.ENDS
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* January 2001
*   SPICE3
*           anode     cathode
* Forward   node 1    node 5
.subckt UG5JT 1 5
d1 1 2 dmod1
.model dmod1 d is = 1.00579E-012 n = 1.84998
+ eg = 1.11 xti = 3
g1 1 2 100 0 0.000124467
rs 2 3 0.0246602
e2 3 4 value = {v(30) * 1.935E-007 * i(vs2) / ( abs ( v(51) * 12.9 ) + v(30) * 7.5E-009 )}
vs2 4 5 0
h2 50 0 vs1 1.54919E-008
rtf1 50 51 10000
ctf 51 0 8.8E-011
rtf2 51 0 1E+007
e1 20 0 1 2 1
vs4 20 21 0
d2 21 0 dmod2
.model dmod2 d is = 0.000153571 n = 3.69997
+ eg = 1.11 xti = 3
i1 0 30 1e-3
r1 30 0 rmod 25.86417
.model rmod res tc1=3.331667e-003 tc2=0 tnom=27
h1 40 0 vs4 8034.28
rt1 40 100 16595.5
rt2 100 41 3889.58
l1 41 42 0.000124467
vs1 42 0 0
dbv 1 5 bvmod
.model bvmod d is = 1E-030 n = 2 rs = 200 bv = 660 ibv = 0.01
+ cjo = 2.06487E-011 vj = 11.4912 m = 0.250204 fc = 0.5
rl 5 1 rlmod 2.8487E+009
.model rlmod res tc1 = -0.0075 tc2 = 0 tnom = 25
.ends
*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL UG8DT D (
+   N=2.69107
+  IS=1.23442E-005
+  RS=0.00430462
+  EG=1.11
+  XTI=3
+  CJO=83.2E-12 
+  VJ=0.75 
+   M=0.333
+  FC=0.5
+  TT=4.93261E-008
+  BV=200
+  IBV=0.1
+  KF=0
+  AF=1 )

*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* January 2001
*   SPICE3
*             anode     cathode
* Forward 1   node 1    node 2
* Forward 2   node 3    node 2
.subckt UG8JCT 1 2 3
x1 1 2 ug8jctleg
x2 3 2 ug8jctleg
.ends
*$
* Forward     node 1    node 5
.subckt ug8jctleg 1 5
d1 1 2 dmod1
.model dmod1 d is = 1.00238E-012 n = 1.84999
+ eg = 1.11 xti = 3
g1 1 2 100 0 0.000126491
rs 2 3 0.0261935
b1 3 4 value = {v(30) * 1.84E-007 * i(vs2) / ( abs ( v(51) * 11.5 ) + v(30) * 8E-009 )}
vs2 4 5 0
h2 50 0 vs1 1.6E-008
rtf1 50 51 10000
ctf 51 0 9.5E-011
rtf2 51 0 1E+007
e1 20 0 1 2 1
vs4 20 21 0
d2 21 0 dmod2
.model dmod2 d is = 0.000112882 n = 3.69999
+ eg = 1.11 xti = 3
i1 0 30 1e-3
r1 30 0 rmod 25.86417
.model rmod res tc1=3.331667e-003 tc2=0 tnom=27
h1 40 0 vs4 7905.69
rt1 40 100 15811.4
rt2 100 41 3952.85
l1 41 42 0.000126491
vs1 42 0 0
dbv 1 5 bvmod
.model bvmod d is = 1E-030 n = 2 rs = 150 bv = 660 ibv = 0.01
+ cjo = 1.39155E-011 vj = 12.6614 m = 0.25 fc = 0.5
rl 5 1 rlmod 7.71046E+007
.model rlmod res tc1 = -0.0075 tc2 = 0 tnom = 25
.ends
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* January 2001
*   SPICE3
*           anode     cathode
* Forward   node 1    node 5
.subckt UG8JT 1 5
d1 1 2 dmod1
.model dmod1 d is = 1.0025E-012 n = 1.74999
+ eg = 1.11 xti = 3
g1 1 2 100 0 0.000134102
rs 2 3 0.0222587
e2 3 4 value = {v(30) * 1.4112E-007 * i(vs2) / ( abs ( v(51) * 7.2 ) + v(30) * 9.8E-009 )}
vs2 4 5 0
h2 50 0 vs1 1.79833E-008
rtf1 50 51 10000
ctf 51 0 8E-011
rtf2 51 0 1E+007
e1 20 0 1 2 1
vs4 20 21 0
d2 21 0 dmod2
.model dmod2 d is = 0.000129651 n = 3.49997
+ eg = 1.11 xti = 3
i1 0 30 1e-3
r1 30 0 rmod 25.86417
.model rmod res tc1=3.331667e-003 tc2=0 tnom=27
h1 40 0 vs4 7457.01
rt1 40 100 13683.9
rt2 100 41 4063.69
l1 41 42 0.000134102
vs1 42 0 0
dbv 1 5 bvmod
.model bvmod d is = 1E-030 n = 2 rs = 150 bv = 660 ibv = 0.01
+ cjo = 2.61582E-011 vj = 12.2279 m = 0.25 fc = 0.5
rl 5 1 rlmod 1E+015
.model rlmod res tc1 = -0.0075 tc2 = 0 tnom = 25
.ends
*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL US1G D (
+   N=2.79019
+  IS=2.71097E-006
+  RS=0.0145165
+  EG=1.11
+  XTI=3
+  CJO=3.71999E-011
+  VJ=3.63462
+   M=0.834381
+  FC=0.5
+  TT=1.23315E-007
+  BV=400
+  IBV=0.1
+  KF=0
+  AF=1 )


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL US1J D (
+   N=4.1587
+  IS=2.78613E-006
+  RS=0.112241
+  EG=1.11
+  XTI=3
+  CJO=2.92033E-011
+  VJ=3.46059
+   M=0.835798
+  FC=0.5
+  TT=1.84973E-007
+  BV=600
+  IBV=0.1
+  KF=0
+  AF=1 )
*$
